US07981903B2
A 0° C. orange solution of (2S)-1-acetyl-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indole (5.19 g, 25.3 mmol) in TFA (30 mL) was treated with NaNO2 (1.745 g, 25.3 mmol) portion wise. After 2 h more NaNO2 (800 mg, 11.6 mmol) was added. After 1 h the resulting mixture was poured into water (450 mL). The resulting slurry was filtered and the solids were washed with water. The solids were dissolved in CH2Cl2. The layers were separated, the organic layer was dried (Na2SO4) and concentrated to afford (2S)-1-acetyl-2-methyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole as a green solid (5.73 g, 91%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.23 (d, J=6.23 Hz, 3H), 2.22 (s, 3H), 2.76 (d, J=17.21 Hz, 1H), 3.45 (dd, J=17.03, 8.97 Hz, 1H), 3.89 (s, 3H), 4.58-4.78 (m, 1H), 7.35 (s, 1H), 8.41 (s, 1H); ESIMS (M+H)+=251.02.

reactant | (2S)-1-acetyl-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indole | 25.3 mmol, 5.19 g | C(C)(=O)N1[C@H](CC2=CC(=CC=C12)OC)C | C12H15NO2
reactant | NaNO2 | 25.3 mmol, 1.745 g | N(=O)[O-].[Na+]
reactant | NaNO2 | 11.6 mmol, 800 mg | N(=O)[O-].[Na+]
reactant | water | 450 mL | O | H2O
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S)-1-acetyl-2-methyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 5.73 g, 91% | C(C)(=O)N1[C@H](CC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C12H14N2O4
